US08404914B2
To reduce steps, Patent Literatures 2 to 4 disclose methods in which isopropanol from the hydrogenation of acetone is directly used as an alkylating agent without dehydration and is reacted with benzene to give cumene. Patent Literature 4 discloses that the process involves a trickle-bed reactor, but is silent on the flow rate of gas.

reactant | isopropanol | C(C)(C)O | C3H8O
reactant | acetone | CC(=O)C | C3H6O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
